US05101048
Preparation of 4-(4-iodophenyl)benzonitrile
A mixture of 15 g (33.2.10-3 mol) of 4,4'-diiodo-1,1'-biphenyl, 3.13 g (34.9.10-3 mol) of mercuric cyanide and 2.75 g (34.9.10-3 mol) of pyridine is heated at 200° C. for 15 minutes and 6 ml of dimethylformamide are then added to the mixture. After cooling, the reaction medium is hydrolyzed with a 1N aqueous solution of hydrochloric acid. The expected product is extracted with ethyl acetate. The organic phase obtained is washed with water until the pH of the washings is neutral, dried over magnesium sulfate and evaporated under vacuum. 3.28 g (yield: 33%) of a yellow solid are obtained after purification by flash chromatography using a chloroform/toluene mixture (1/1 v/v) as the eluent.

reactant | 4,4'-diiodo-1,1'-biphenyl | 15 g | IC1=CC=C(C=C1)C1=CC=C(C=C1)I | C12H8I2
reactant | Hg(CN)2 | 3.13 g | [Hg](C#N)C#N
reactant | pyridine | 2.75 g | N1=CC=CC=C1 | C5H5N
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | 4-(4-iodophenyl)benzonitrile | 3.28 g, yield: 33% | IC1=CC=C(C=C1)C1=CC=C(C#N)C=C1 | C13H8IN
